US05328911
(2) 7-Chloro-2-n-propyl-3H-imidazo[4,5-b]pyridine
500 mg of 4-chloro-2,3-diaminopyridine was dissolved in THF, and 860 mg of dicyclohexylcarbodiimide, 570 mg of N-hydroxybenzotriazole and 0.4 ml of n-butyric acid were successively added thereto. The mixture was stirred overnight at room temperature, and the solid was removed by filtration. The solid was thoroughly washed with ethyl acetate. The mother liquor and wash liquid were collected, and the solvent was distilled off in vacuo. The residue was purified by silica gel chromatography (CH2Cl2 :MeOH=40:1). The solid obtained by distilling off the solvent in vacuo was heated to 140° C. The temperature of the solid was returned to room temperature after 30 min, and the solid was purified by column chromatography (Ch2Cl2 :MeOH=20:1) to prepare 200 mg of 7-chloro-2-n-propyl-3H-imidazo[4,5-b]pyridine containing some impurities.

reactant | 4-chloro-2,3-diaminopyridine | 500 mg | ClC1=C(C(=NC=C1)N)N | C5H6ClN3
reactant | dicyclohexylcarbodiimide | 860 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-hydroxybenzotriazole | 570 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | n-butyric acid | 0.4 ml | C(CCC)(=O)O | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 7-Chloro-2-n-propyl-3H-imidazo[4,5-b]pyridine | ClC1=C2C(=NC=C1)NC(=N2)CCC | C9H10ClN3
